Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R heel pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with a PMH notable for anxiety 
and ADHD who presents with bilateral foot pain after a fall.  
The patient was feeling well and in good health up until the 
evening of ___. He was called to his mother's house for help 
because she had locked herself out of her house. He reports 
climbing up through a window to get in and overestimated the 
fall. When he landed, he had severe pain in his leg. He tried to 
self medicate with OTC pain medications, ibuprofen mostly, but 
had such severe pain that he presented to the ___ on 
___.  
At ___, he was found to have a right calcaneal fracture 
and elevated LFTs, AST/ALT 122/335, TBili 1.7. He was transfer 
to ___ ED for further care. Here, Orthopedics evaluated the 
patient and felt that the fracture is non-operative. He was 
placed in a cast with plans for follow up. Toxicology was 
consulted for the elevated LFTs. Because he had no detectable 
acetaminophen level and stable LFT trend, no NAC was empirically 
given. Last, CT abdomen and pelvis here was suggestive of 
pulmonary contusions, for which Trauma Surgery was consulted. 
Ultimately, given clinical stability, no intervention was 
recommended. The patient was ultimately admitted for work up of 
LFT abnormalities.  
On arrival to the floor, patient reports throbbing severe right 
foot pain. Otherwise, he feels well. He reports having no 
symptoms whatsoever prior to the traumatic injury. He says he 
must leave the hospital by 3PM on ___ to make it to his son' 
birthday party, which is very important to him.  
 
Past Medical History:
- ADHD  
- Anxiety  
 
Social History:
___
Family History:
No family history of GI illnesses or liver problems. No 
significant medical problems in his mother or father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated  
CV: Tachycardic, regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No Foley  
Ext: Warm, well perfused, 2+ pulses in the left leg, right leg 
is in a cast from below the knees to the foot with toes exposed  

Neuro: Sensation preserved in the toes bilaterally  

DISCHARGE PHYSICAL EXAM
=======================
General: Alert, oriented, in distress ___ heel pain 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated  
CV: Tachycardic, regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No Foley  
Ext: Warm, well perfused, 2+ pulses in the left leg, right leg 
is in a cast from below the knees to the foot with toes exposed. 
R toes are bruised and edematous, but cap refill < 2 sec and 
pulse present.  
Neuro: Sensation preserved in the toes bilaterally
 
Pertinent Results:
LABS
====
___ 04:23PM BLOOD WBC-16.6* RBC-3.80* Hgb-12.5* Hct-35.9* 
MCV-95 MCH-32.9* MCHC-34.8 RDW-13.5 RDWSD-46.3 Plt ___
___ 04:23PM BLOOD Neuts-76* Bands-1 Lymphs-17* Monos-4* 
Eos-2 Baso-0 ___ Myelos-0 AbsNeut-12.78* 
AbsLymp-2.82 AbsMono-0.66 AbsEos-0.33 AbsBaso-0.00*
___ 04:23PM BLOOD ___ PTT-28.0 ___
___ 04:23PM BLOOD Glucose-92 UreaN-14 Creat-0.6 Na-137 
K-3.5 Cl-100 HCO3-21* AnGap-20
___ 04:23PM BLOOD ALT-357* AST-151* AlkPhos-120 TotBili-1.3
___ 11:32PM BLOOD ALT-340* AST-141* AlkPhos-111 TotBili-1.1
___ 04:23PM BLOOD Albumin-4.3
___ 04:23PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:00PM URINE bnzodzp-POS* barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICRO
=====
NONE

IMAGING
=======
CT RLE W/O CONTRAST ___
Comminuted fracture of the right calcaneus extending to the 
posterior facet of the subtalar joint.  Comminution of the 
posterior calcaneus.  Possible small avulsion fragments along 
the anterior process of the calcaneus. 

CT A/P W/ CONTRAST ___ 
1. No sequelae of trauma identified within the abdomen pelvis.  
No fracture. 
2. Ground-glass opacities in the lower lungs concerning for 
contusion. 

CXR ___
PA and lateral views of the chest provided.   Vague ground-glass 
lower lung opacities are better assessed on same-day CT.  No 
large effusion or 
pneumothorax.  Cardiomediastinal silhouette is normal.  No acute 
bony 
abnormalities. 

RUQUS ___
Normal abdominal ultrasound.  No evidence for liver 
abnormalities or biliary obstruction. 
 
Brief Hospital Course:
Mr. ___ is a ___ man with a PMH notable for anxiety 
and ADHD who presents with right calcaneus fracture and 
incidentally found to have LFT abnormalities.

# Right Calcaneus Fracture  
Non-operative per Orthopedics. Neurovascularly intact. Placed in 
a splint in the ED, then changed to a cast by ortho-techs the 
next day. Discharged on short course of PO oxycodone. Will 
follow up with Dr. ___ in 2 weeks. PMP checked prior to d/c.  

 
# LFT Abnormalities  
Patient w/ no GI sxs prior to discovery of lab abnormalities and 
his current injury. Patient reports no recent acetaminophen 
ingestion. He reports no recreational drug use. There's no 
family history of any autoimmune or liver problems. He did have 
severe n/v for a few hours after the fracture, before he 
presented to the ED. RUQUS unremarkable.

*** Update *** After patient was d/c'd, hepatitis C serology was 
noted to return positive, have made multiple attempts to reach 
patient, will continue to do so, but please make sure he has 
adequate f/u with PCP, GI to discuss tx options.
 
# Anxiety | ADHD: Continued home alprazolam, Adderall.  

TRANSITIONAL ISSUES
===================
CALCANEUS FRACTURE
[ ] will f/u with Dr. ___ in 2 weeks

LFT ABNORMALITIES
[ ] will f/u w/ PCP

[ ] *** Update *** After patient was d/c'd, hepatitis C serology 
was noted to return positive, have made multiple attempts to 
reach patient, will continue to do so, but please make sure he 
has adequate f/u with PCP, GI to discuss tx options.

# CODE: FULL Code (confirmed)  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
2. Amphetamine-Dextroamphetamine 20 mg PO BID 
3. Gabapentin 600 mg PO BID 
4. CloNIDine 0.1 mg PO TID 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6H:PRN Disp #*12 Tablet 
Refills:*0 
2.  ALPRAZolam 0.5 mg PO BID:PRN anxiety  
3.  Amphetamine-Dextroamphetamine 20 mg PO BID  
4.  CloNIDine 0.1 mg PO TID  
5.  Gabapentin 600 mg PO BID  
6.Medical Equipment - Crutches
Crutches
Dx: Calcaneal Fracture
Px: Good
___: 13 Months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Right Calcaneus Fracture
Transaminitis

SECONDARY DIAGNOSIS
===================
Anxiety
ADHD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted after you fractured your right 
heel. Ortho saw you in the ED and determined you did not need 
surgery. They put your heel in a splint/cast and you will see 
Dr. ___ in two weeks. You were also incidentally found to 
have abnormal liver lab tests.  We drew additional labs to 
investigate the cause of this, but your primary care physician 
___ continue this investigation and monitoring of your liver 
numbers, so please follow up with him/her as well. 

We wish you the best of health,
Your ___ Care Team
 
Followup Instructions:
___